US06803457B1
2-Benzyloxy-5-trifluoromethyl-benzylazide
DBU (1 mL, 6.62 mmol) and diphenyl phosphoryl azide (1.6 mL, 7.5 mmol) were added to a solution of 2-benzyloxy-5-trifluoromethyl-benzyl alcohol (1.24 g, 4.41 mmol) in anhydrous toluene (10 mL) at room temperature. After 3 hours, water was added and the mixture extracted with ethyl acetate (3×). The combined organic layers were washed with 1N HCl (1×), brine (1×), dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by flash chromatography (3% ethyl acetate/hexanes) to afford 1.14 grams of the title compound as a colorless oil (84%). MS 280 (M−N2)+. 1H NMR (400 MHz, CDCl3) δ 7.6-7.3 (m, 7H); 7.01 (d, 1H, J=9.1 Hz); 5.18 (s, 2H); 4.42 (s, 2H).

reactant | DBU | 6.62 mmol, 1 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | diphenyl phosphoryl azide | 7.5 mmol, 1.6 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-benzyloxy-5-trifluoromethyl-benzyl alcohol | 4.41 mmol, 1.24 g | C(C1=CC=CC=C1)OC1=C(CO)C=C(C=C1)C(F)(F)F | C15H13F3O2
reactant | water | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Benzyloxy-5-trifluoromethyl-benzylazide | 1.14 grams, 84% | C(C1=CC=CC=C1)OC1=C(CN=[N+]=[N-])C=C(C=C1)C(F)(F)F | C15H12F3N3O
